US06583135B2
tert-Butyl 6-{2-[(phenylsulfonyl)amino]ethyl}-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate (0.0430 g, 0.0916 mmol) was dissolved in CH2Cl2 (2 mL) at rt. CF3CO2H (1 mL) was added, then the reaction mixture was stirred for 2 h. The reaction mixture was concentrated and the residue was taken up in EtOAc (2 mL). HCl in Et2O (1N) (2 mL) was added and the precipitated salt was collected by filtration. N-[2-(2,3,4,5-tetrahydroazepino[4,5-b]indol-6(1H)-yl)ethyl]benzenesulfonamide hydrochloride (0.0335 g) was obtained in 90% yield. 1H NMR (300 MHz, CD3OD) δ 3.16, 3.19-3.23, 3.37-3.41, 3.44-3.47, 3.53-3.57, 4.34, 7.08, 7.15, 7.32, 7.49, 7.52, 7.61, 7.77; MS (ESI+) for C20H23N3O2S m/z 370.1 (M+H)+.

reactant | tert-Butyl 6-{2-[(phenylsulfonyl)amino]ethyl}-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 0.0916 mmol, 0.0430 g | C1(=CC=CC=C1)S(=O)(=O)NCCN1C2=C(C=3C=CC=CC13)CCN(CC2)C(=O)OC(C)(C)C | C25H31N3O4S
reactant | CF3CO2H | 1 mL | C(F)(F)(F)C(=O)O | C2HF3O2
reactant | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | N-[2-(2,3,4,5-tetrahydroazepino[4,5-b]indol-6(1H)-yl)ethyl]benzenesulfonamide hydrochloride | 0.0335 g, 90% yield | Cl.C1CNCCC=2N(C=3C=CC=CC3C21)CCNS(=O)(=O)C2=CC=CC=C2 | InChI=1S/C20H23N3O2S.ClH/c24-26(25,16-6-2-1-3-7-16)22-14-15-23-19-9-5-4-8-17(19)18-10-12-21-13-11-20(18)23;/h1-9,21-22H,10-15H2;1H
